US06899984B2
A mixture of 9-ethyl-3-carbazolecarbaldehyde phenylhydrazone (3.1 g, 0.01 mol), 85% powdered potassium hydroxide (2.0 g, 0.03 mol) and anhydrous potassium carbonate (˜5 g) in 25 ml of epichlorohydrin was stirred vigorously at 55-60° C. for 1.5-2 h. The course of the reaction was monitored using thin layer chromatography on silica gel 60 F254 plates (commercially obtained from Merck) using a 1:4 volume per volume mixture of acetone and hexane as the eluant. After termination of the reaction, the mixture was cooled to room temperature, diluted with ether and washed with water until the wash water was neutral in pH. The organic layer was dried over anhydrous magnesium sulfate, treated with activated charcoal, and filtered. Ether was removed, and the residue was dissolved in the mixture of toluene and 2-propanol in 1:1 ratio by volume. The crystals formed upon standing were filtered off, and washed with 2-propanol to give 3.0 g (81.2%) of 9-ethyl-3-carbazolecarbaldehyde N-2,3-epoxypropyl-N-phenylhydrazone. The solid product had a melting point (m.p.) of 136-137° C. after being recrystallized from a mixture of toluene and 2-propanol in 1:1 ratio by volume. A 1H-NMR spectrum of 9-ethyl-3-carbazolecarbaldehyde N-2,3-epoxypropyl-N-phenylhydrazone was obtained in CDCl3 with a 250 MHz NMR. The peaks were found at (ppm) δ=8.35 (s, 1H, 4-HHt); δ=8.14 (d, J=7,8 Hz, 1H, 1-HHt); δ=7.93 (d, J=7,6 Hz, 1H, 2-HHt); δ=7.90 (s, 1H, CH═N); δ=7.54-7.20 (m, 8H, Ph, Ht); δ=6.96 (t, J=7.2 Hz, 1H, 4-HPh); δ=4.37 (m, 3H, CH2CH3, one of the NCH2 protons); δ=4.04 (dd, J1=4.3 Hz, J 2=16.4 Hz, 1H, next of the NCH2 protons); δ=3.32 (m, 1H, CH); δ=2.88 (dd, 1H, part of the ABX system, cis-HA of CH2O, JAX=2.6 Hz, JAB=4.9 Hz); δ=2.69 (dd, 1H, part of the ABX system, trans-HB of CH2O, JBX=4.0 Hz); δ=1.44 (t, J=7.2 Hz, 3H, CH3). An elemental analysis found the following weight percents of the elements: C 78.32; H 6.41; N 11.55, which compares with the following calculated elemental weight percent for a compound with the formula C24H23N3O: C, 78.02; H, 6.28; N, 11.37.

reactant | 9-ethyl-3-carbazolecarbaldehyde phenylhydrazone | 0.01 mol, 3.1 g | C1(=CC=CC=C1)NN=CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C21H19N3
reactant | potassium hydroxide | 0.03 mol, 2.0 g | [OH-].[K+]
reactant | potassium carbonate | ˜5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
solvent | epichlorohydrin | 25 ml | C(Cl)C1CO1 | C3H5ClO
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 9-ethyl-3-carbazolecarbaldehyde N-2,3-epoxypropyl-N-phenylhydrazone | 3.0 g, 81.2% | O1C(CN(N=CC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C2=CC=CC=C2)C1 | C24H23N3O
